US07956070B2
Step 3: Methyl 4-chloro-3-[2-({(2R)-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]-2-hydroxypropyl}amino)-2-oxoethoxy]benzoate
Prepared as for Example 15 Step 2 using [2-Chloro-5-(methoxycarbonyl)-phenoxy]acetic acid and (2R)-1-amino-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]propan-2-ol to yield the subtitle compound as a colourless oil (0.084 g).

reactant | [2-Chloro-5-(methoxycarbonyl)-phenoxy]acetic acid | ClC1=C(OCC(=O)O)C=C(C=C1)C(=O)OC | C10H9ClO5
reactant | (2R)-1-amino-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]propan-2-ol | NC[C@H](CN1CCC(CC1)OC1=C(C(=C(C=C1)Cl)Cl)C)O | C15H22Cl2N2O2
product | Methyl 4-chloro-3-[2-({(2R)-3-[4-(3,4-dichloro-2-methylphenoxy)piperidin-1-yl]-2-hydroxypropyl}amino)-2-oxoethoxy]benzoate | 0.084 g | ClC1=C(C=C(C(=O)OC)C=C1)OCC(=O)NC[C@H](CN1CCC(CC1)OC1=C(C(=C(C=C1)Cl)Cl)C)O | C25H29Cl3N2O6
